US07645771B2
A mixture of 2-methyl-1-{8-[2-(4-phenyl piperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole dihydrochloride (100 mg, 0.22 mmol), (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl 4-nitrophenyl carbonate (78 mg, 0.26 mmol) and N,N-diisopropylethylamine (0.15 mL, 0.88 mmol) in acetonitrile (3 mL) was stirred at rt for 16 h. The reaction mixture was concentrated and the residue in dichloromethane was washed with saturated sodium carbonate solution, dried, concentrated and chromatographed on silica gel eluting with 1:40 methanol:dichloromethane to give (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl 4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidine-1-carboxylate as a clear glass (0.064 g, 50%). 1H NMR (400 MHz, CDCl3) δ 7.38 (m, 2H), 7.29 (m, 5H), 7.16 (m, 2H), 5.71 (m, 1H), 5.18 (m, 1H), 4.59 (m, 1H), 3.75-4.04 (m, 7H), 3.22 (m, 3H), 3.05 (m, 1H), 2.58 (m, 3H), 2.19-2.36 (m, 4H), 1.80-1.92 (m, 9H), 1.61 (m, 5H). HRMS C35H44N4O4 m/z 585.3441 (M+H)Cal., 585.3440 (M+H)Obs..

reactant | 2-methyl-1-{8-[2-(4-phenyl piperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole dihydrochloride | 0.22 mmol, 100 mg | Cl.Cl.CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCNCC3)C3=CC=CC=C3)C=CC=C2
reactant | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl 4-nitrophenyl carbonate | 0.26 mmol, 78 mg | C(O[C@H]1CO[C@H]2OCC[C@H]21)(OC2=CC=C(C=C2)[N+](=O)[O-])=O | C13H13NO7
reactant | N,N-diisopropylethylamine | 0.88 mmol, 0.15 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl 4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidine-1-carboxylate | 0.064 g, 50% | CC1=NC2=C(N1C1C[C@H]3CC[C@@H](C1)N3CCC3(CCN(CC3)C(=O)O[C@H]3CO[C@H]1OCC[C@H]13)C1=CC=CC=C1)C=CC=C2 | C35H44N4O4
